US05034417
A mixture of 4'-amino-3'-(2,4-difluorophenylthio)acetophenone (2 g), pyridine (0.623 g) and iodobenzene dichloride (2.7 g) in tetrahydrofuran (20 ml) was stirred for 1.5 hours at 0° to 5° C. The mixture was concentrated to dryness. The residue was dissolved in ethyl acetate, washed with water and an aqueous solution of sodium hydrogensulfite successively, dried, and evaporated. The solid residue was washed with a mixture of hexane and ethanol to give 4'-amino-3'-chloro-5'-(2,4-difluorophenylthio)acetophenone (1.7 g).

reactant | 4'-amino-3'-(2,4-difluorophenylthio)acetophenone | 2 g | NC1=C(C=C(C=C1)C(C)=O)SC1=C(C=C(C=C1)F)F | C14H11F2NOS
reactant | pyridine | 0.623 g | N1=CC=CC=C1 | C5H5N
reactant | iodobenzene dichloride | 2.7 g | [Cl-].[Cl-].IC1=CC=CC=C1
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4'-amino-3'-chloro-5'-(2,4-difluorophenylthio)acetophenone | 1.7 g | NC1=C(C=C(C=C1SC1=C(C=C(C=C1)F)F)C(C)=O)Cl | C14H10ClF2NOS
